US04762843
The procedure of Grob et al. (Helv. Chim. Acta 1965, 48, 799-808) was followed. A solution of 66.70 g (0.441 mol) of 2,3,4,6,7,8-hexahydro-5(1H)-quinolinone in 250 ml of glacial acetic acid containing 2 g of PtO2 was hydrogenated at 450 psi and 50° C. for 75 hours. Hydrogen uptake was only 57.2% of the theoretical. The sample was filtered, concentrated (to remove most of the acetic acid), cooled to 0° C., basified with 6N sodium hydroxide to a pH of 12 and extracted three times with 500 ml of methylene chloride. The combined methylene chloride extract was dried over magnesium sulfate, filtered and concentrated to give 24.80 g (36.2%) of decahydro-5-quinolinol, which was a three component isomeric mixture by gas chromatography (GC) analysis, as a light brown oily-solid. This mixture was carried on to the next step without further purification.

reactant | 2,3,4,6,7,8-hexahydro-5(1H)-quinolinone | 0.441 mol, 66.70 g | N1CCCC=2C(CCCC12)=O | C9H13NO
reactant | Hydrogen | [H][H] | H2
solvent | acetic acid | 250 ml, 2 g | C(C)(=O)O | C2H4O2
catalyst | PtO2 | O=[Pt]=O
product | decahydro-5-quinolinol | 24.80 g, 36.2% | N1CCCC2C(CCCC12)O | C9H17NO
